US07348337B2
A mixture of 2-methyl-4-piperidone (16.3 g), NaHCO3 (9.5 g) and di-tert-butyl dicarbonate (17.4 g) in water (50 ml) and CHCl3 (125 ml) was stirred at room temperature for six hours. 40 ml of water was then added and phases were separated. The aqueous layer was extracted with CHCl3 (4×30 ml) and the combined organic layer was dried over MgSO4 and concentrated to provided a residue which was purified by silica gel column chromatography to provide the N-Boc-2-methyl-4-piperidone (13.3 g).

reactant | 2-methyl-4-piperidone | 16.3 g | CC1NCCC(C1)=O | C6H11NO
reactant | NaHCO3 | 9.5 g | C(=O)(O)[O-].[Na+]
reactant | di-tert-butyl dicarbonate | 17.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 50 ml | O | H2O
solvent | CHCl3 | 125 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 40 ml | O | H2O
product | N-Boc-2-methyl-4-piperidone | 13.3 g | C(=O)(OC(C)(C)C)N1C(CC(CC1)=O)C | C11H19NO3
